US07547680B2
2-(3-Carboxymethyloxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole
2-(3-Ethoxycarbonylmethyloxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole (53 mg) was dissolved in tetrahydrofuran (5 mL). To the reaction mixture was added 2 mol/L aqueous sodium hydroxide solution (1 mL), and the mixture was stirred 60° C. for 1 hour. To the reaction mixture was added 2 mol/L hydrochloric acid (1 mL), and the solvent was removed under reduced pressure. The obtained residue was purified by preparative reverse phase column chromatography (Shiseido CAPSELL PAC C18UG80, 5 μm, 20×50 mm, flow rate 30 mL/minutes linear gradient, water/methanol=70/30-10/90) to give the title compound (20 mg).

reactant | 2-(3-Ethoxycarbonylmethyloxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole | 53 mg | C(C)OC(=O)COC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1C1=CC=CC=C1 | C29H31N3O7
reactant | sodium hydroxide | 2 mol/L, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L, 1 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(3-Carboxymethyloxy-4-phenylbenzylamino)-1-(β-D-ribofuranosyl)-1H-benzimidazole | 20 mg | C(=O)(O)COC=1C=C(CNC2=NC3=C(N2[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)C=CC=C3)C=CC1C1=CC=CC=C1 | C27H27N3O7
